** sch_path: /foss/designs/Alpha.sch
**.subckt Alpha A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XXM1 Y A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XXM2 Y A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
**.ends
.end

