** sch_path: /foss/designs/BaiTap1/CS_Amplifier_Current.sch
**.subckt CS_Amplifier_Current
XXM1 vout vin GND GND sg13_lv_nmos w=4u l=1.3u ng=1 m=1 mm_ok=1
XXM2 vout net1 VDD VDD sg13_lv_pmos w=15u l=1.3u ng=1 m=1 mm_ok=1
VDD VDD GND 1.2
Vb net1 GND 0.62
VIN vin GND DC 0.45 AC 1
C1 vout GND 100f
**** begin user architecture code


.op
.ac dec 50 1k 1G
.save all
.end




.lib cornerMOSlv.lib mos_tt


**** end user architecture code
**.ends
.GLOBAL GND
.end
