** sch_path: /foss/designs/BTDay2-Ex/Ex1a_Lecture2.sch
**.subckt Ex1a_Lecture2
XM1 vout vin GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 vout vin vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
VIN vin GND 0
VDD vdd GND 1.2
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.param temp=27
.control
save all
op
dc VIN 0 1.2 0.01
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
