** sch_path: /foss/designs/BTDay5-Ex/Test-2-stageOpampCMFB.sch
**.subckt Test-2-stageOpampCMFB
VDD VDD VSS 1.2
VIN VIN VSS DC 0.8 Ac -0.5
VIP VIP VSS DC 0.8 Ac +0.5
VSS VSS GND 0
VB2 VBIAS VSS 0.65
VSS1 VCM GND 0.6
x1 VCM VDD VBIAS VOP VON VIP VIN GND 2-stageOpampCMFB
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.control
save all
op

* 1. IN DIEM LAM VIEC DC VA CONG SUAT
let power_mw = abs(i(vdd)[0]) * 1.2 * 1000
echo ================= KET QUA DC & CONG SUAT =================
print v(vip) v(vin) v(vbias) v(vcm) v(vop) v(von)
print power_mw

* 2. MO PHONG AC
ac dec 100 1 10G

* Tinh toan vi sai VOP va VON
let vid = v(vip) - v(vin)
let vod = v(vop) - v(von)
let av = vod / vid
let gain_db = db(av)
let phase_deg = cph(av) * 180 / pi
let open_loop_gain_times = mag(av[0])

if phase_deg[0] > 90
  let phase_deg = phase_deg - 360
end

meas ac f_ug when gain_db=0 fall=1
meas ac phase_at_ug find phase_deg when gain_db=0 fall=1
let phase_margin = 180 + phase_at_ug

echo ================= KET QUA SPEC EX3 =================
echo Open Loop Gain (lan):
print open_loop_gain_times
echo DC Gain (dB):
print gain_db[0]
echo Bandwidth GBW f_ug:
print f_ug
echo Phase Margin:
print phase_margin
echo Cong suat Power (mW):
print power_mw
echo ===================================================

let line_0db = 0 * frequency
let line_m180 = -180 + 0 * frequency

plot gain_db phase_deg line_0db line_m180 xlog ylimit -360 80 title 'Ex3: Fully-Diff OpAmp with CMFB'
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/BTDay5-Ex/2-stageOpampCMFB.sym # of pins=8
** sym_path: /foss/designs/BTDay5-Ex/2-stageOpampCMFB.sym
** sch_path: /foss/designs/BTDay5-Ex/2-stageOpampCMFB.sch
.subckt 2-stageOpampCMFB VCM VDD VBIAS VOP VON VIP VIN VSS
*.iopin VDD
*.iopin VSS
*.ipin VBIAS
*.opin VON
*.ipin VIN
*.ipin VIP
*.opin VOP
*.ipin VCM
XM1 net3 VIN net1 VSS sg13_lv_nmos w=4u l=1u ng=1 m=2 mm_ok=1
XM2 net2 VIP net1 VSS sg13_lv_nmos w=4u l=1u ng=1 m=2 mm_ok=1
XM3 net1 VCMFBG VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
XM4 net3 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM7 VB2 VB2 VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM8 VB2 VBIAS VDD VDD sg13_lv_pmos w=2u l=6u ng=1 m=1 mm_ok=1
XM10 net2 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM5 VOP VB2 VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM11 VOP net2 VDD VDD sg13_lv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
C2 VOP net4 1.8p
R1 net4 net2 50k
XM9 VON VB2 VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
C3 net5 VON 1.8p
R2 net3 net5 50k
XM12 VB1 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM13 VB1 VB2 VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM6 VON net3 VDD VDD sg13_lv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XM14 net7 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM15 net6 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM16 VCMFBG VOP net6 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM17 VCMFBL VCM net6 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM18 VCMFBL VCM net7 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM19 VCMFBG VON net7 VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM20 VCMFBL VCMFBL VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
XM21 VCMFBG VCMFBG VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
.ends

.GLOBAL GND
.end
